US05684156
EXAMPLE 3: Synthesis of 2-[(2,6-Dichloro-4-nitrophenyl)imino]hexahydro-1,3-diazepine
A solution of 1.76 g (0.02 mol) of 1,4-diaminobutane in 10 mL of toluene was cooled to -10° C. and 2,6-dichloro-4-nitrophenylisothiocyanate (2.45 g, 0.01 mol) in 10 mL of toluene was added dropwise over 30 minutes. The resulting mixture was stirred an additional hour then heated at reflux overnight. The reaction was cooled to room temperature and was treated with 30 mL 1M HCl. The aqueous phase was brought to pH 9 with 1M NaOH and the resulting yellow precipitate was filtered, washed with water then hexane and air dried to give 0.92 g (30%) of the product.

reactant | 1,4-diaminobutane | 0.02 mol, 1.76 g | NCCCCN | C4H12N2
reactant | 2,6-dichloro-4-nitrophenylisothiocyanate | 0.01 mol, 2.45 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)N=C=S | C7H2Cl2N2O2S
reactant | HCl | 1M, 30 mL | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(2,6-Dichloro-4-nitrophenyl)imino]hexahydro-1,3-diazepine | 0.92 g, 30% | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)N=C1NCCCCN1 | C11H12Cl2N4O2
